data/mechanism_extracts/OrgLett/10.1021_acs.orglett.2c03443_sup_1.json
{"doi": "10.1021_acs.orglett.2c03443_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical deuteration/functionalization of alkenes using CDCl3 as a deuterated dichloromethyl radical source", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic/cathodic generation of dichloromethyl-d radical (·CDCl2) from CDCl3, which adds to the alkene as the first step", "key_intermediates": [{"name": "dichloromethyl-d radical (·CDCl2)", "smiles": "[2H][C]([Cl])[Cl]", "role": "reactive"}, {"name": "benzyl radical from styrene + ·CDCl2 addition", "smiles": null, "role": "transient"}, {"name": "cyclopropane product 2ag (D,Cl-substituted phenylcyclopropane)", "smiles": null, "role": "reactive"}, {"name": "dimer S1 (1,4-diphenyl-1,4-bis(dichloromethyl)butane-type)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Electrolysis homolyzes CDCl3 to generate a ·CDCl2 radical which adds to the styrene C=C; the resulting benzylic radical either cyclizes/closes to give cyclopropane 2ag or dimerizes to S1, and in fluorinated substrate S2 defluorination delivers S3, confirming radical addition as the initiating step.", "rate_determining_step": null, "probe_reagents": [{"name": "styrene (radical acceptor probe)", "smiles": "C=Cc1ccccc1", "purpose": "intermediate_trap", "observation": "Reaction with CDCl3 under standard conditions gave cyclopropane 2ag and isolable dimer S1, indicating ·CDCl2 addition to alkene"}, {"name": "fluorinated substrate S2", "smiles": null, "purpose": "intermediate_trap", "observation": "Defluorination product S3 was obtained, consistent with radical addition of ·CDCl2 followed by β-F loss"}], "evidence_types_used": ["isolation_of_intermediate", "intermediate_trap_other", "H/D_labeling"], "evidence_strength": "medium", "notes": "Mechanism supported by isolation of dimer S1 (radical–radical coupling byproduct) and defluorinated product S3 from a fluorinated probe; both implicate ·CDCl2 radical as the chain-initiating species. Comparison table also shows electrochemistry gives higher D-incorporation (96–98%) at low CDCl3 loading vs. non-electrochemical conditions."}
